US06486210B2
A solution of 3-methoxy-4-acetoxyphenylacetylene (0.02 mol), 2,4,5-trimethoxybenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to General Procedure 2 to form (Z)-3-methoxy-4-acetoxystyryl-2,4,5-trimethoxybenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to General Procedure 2.

reactant | 3-methoxy-4-acetoxyphenylacetylene | 0.02 mol | COC=1C=C(C=CC1OC(C)=O)C#C | C11H10O3
reactant | 2,4,5-trimethoxybenzyl mercaptan | 0.02 mol | COC1=C(CS)C=C(C(=C1)OC)OC | C10H14O3S
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-3-methoxy-4-acetoxystyryl-2,4,5-trimethoxybenzylsulfide | COC=1C=C(\C=C/C(C2=C(C=C(C(=C2)OC)OC)OC)SC(C2=C(C=C(C(=C2)OC)OC)OC)\C=C/C2=CC(=C(C=C2)OC(C)=O)OC)C=CC1OC(C)=O | C42H46O12S
